### PR TITLE
chore: upstream decidability instances for bounded Nats

### PR DESCRIPTION
**Pull request by semorrison**
I ran into the lack of these predicates (specifically the first one) will working on `BitVec` lemmas (manipulating `decide` terms).

These are copied from Mathlib, and we'll need to remember to remove the instances when this is merged.

### CODE REVIEW

File: Std/Data/Nat/Lemmas.lean [hunk 1]
```diff
@@ -1359,3 +1364,40 @@ theorem mul_add_mod (m x y : Nat) : (m * x + y) % m = y % m := by
...
+-- Prior to leanprover/lean4#2552 there was a performance trap
+-- depending on the implementation details in `decidableBallLT`.
+-- We keep this example (which would have gone over maxHeartbeats)
+-- as a regression test for the instance.
+example : ∀ m, m < 25 → ∀ n, n < 25 → ∀ c, c < 25 → m ^ 2 + n ^ 2 + c ^ 2 ≠ 7 := by decide
+
+instance decidableForallFin (P : Fin n → Prop) [DecidablePred P] : Decidable (∀ i, P i) :=
+  decidable_of_iff (∀ k h, P ⟨k, h⟩) ⟨fun m ⟨k, h⟩ => m k h, fun m k h => m ⟨k, h⟩⟩
+
+instance decidableBallLe (n : Nat) (P : ∀ k, k ≤ n → Prop) [∀ n h, Decidable (P n h)] :
```
Comment (digama0) [inline Std/Data/Nat/Lemmas.lean:1390]:
```suggestion
instance decidableBallLE (n : Nat) (P : ∀ k, k ≤ n → Prop) [∀ n h, Decidable (P n h)] :
```

File: Std/Data/Nat/Lemmas.lean [hunk 2]
```diff
@@ -1359,3 +1364,40 @@ theorem mul_add_mod (m x y : Nat) : (m * x + y) % m = y % m := by
...
+  decidable_of_iff (∀ (k) (h : k < succ n), P k (le_of_lt_succ h))
+    ⟨fun m k h => m k (lt_succ_of_le h), fun m k _ => m k _⟩
+
+instance decidableExistsLT [h : DecidablePred p] : DecidablePred fun n => ∃ m : Nat, m < n ∧ p m
+  | 0 => isFalse (by simp only [not_lt_zero, false_and, exists_const, not_false_eq_true])
+  | n + 1 =>
+    @decidable_of_decidable_of_iff _ _ (@instDecidableOr _ _ (decidableExistsLT (p := p) n) (h n))
+      (by simp only [Nat.lt_succ_iff_lt_or_eq, or_and_right, exists_or, exists_eq_left])
+
+instance decidableExistsLe [DecidablePred p] : DecidablePred fun n => ∃ m : Nat, m ≤ n ∧ p m :=
```
Comment (digama0) [inline Std/Data/Nat/Lemmas.lean:1401]:
```suggestion
instance decidableExistsLE [DecidablePred p] : DecidablePred fun n => ∃ m : Nat, m ≤ n ∧ p m :=
```

File: Std/Data/Nat/Lemmas.lean [hunk 3]
```diff
@@ -1359,3 +1364,40 @@ theorem mul_add_mod (m x y : Nat) : (m * x + y) % m = y % m := by
...
+  | isTrue h =>
+    match H n Nat.le.refl with
+    | isFalse p => isFalse (p <| · _ _)
+    | isTrue p => isTrue fun _ h' => (Nat.lt_succ_iff_lt_or_eq.1 h').elim (h _) fun hn => hn ▸ p
+
+-- Prior to leanprover/lean4#2552 there was a performance trap
+-- depending on the implementation details in `decidableBallLT`.
+-- We keep this example (which would have gone over maxHeartbeats)
+-- as a regression test for the instance.
+example : ∀ m, m < 25 → ∀ n, n < 25 → ∀ c, c < 25 → m ^ 2 + n ^ 2 + c ^ 2 ≠ 7 := by decide
```
Comment (digama0) [inline Std/Data/Nat/Lemmas.lean:1385]: examples go in test files

Comment (semorrison) [reply Std/Data/Nat/Lemmas.lean]: Done.

**Review by joehendrix — APPROVED** [review]
